Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
iodine / shellfish derived
 
Attending: ___
 
Chief Complaint:
R sided weakness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
The patient is a ___ year old woman with pmhx of multiple myeloma
on daratumumab started two days ago, hypothyroidism and shingles
on her back diagnosed 1 month ago on acyclovir presenting with
RUE and RLE Weakness. 
Briefly, pt lives in ___ but has a house on the ___ here in
___. She woke this morning at 0545 this morning to go to the
bathroom but noticed that her right leg was weak and numb. There
was no leg pain or back at the time, only weakness and numbness.
She subsequently fell trying to get out of bed and could not get
up. She called her daughter who came over and EMS was called. 
LKW
was last evening around ___ when she went to bed. She was
brought to OSH where she was noticed to have RUE and RLE
weakness. Right arm reportedly had drift and she could not hold 
a
pen or write. CT head was obtained and reportedly showed no 
acute
process (currently no access to imaging). tPA was not given 
since
she was outside the time window. She was transferred to ___
upon patients request.
On the way here her symptoms began to improve. At ___ 
was
2 for RLE weakness. She was not a thrombectomy candidate given
low NIHSS and improving symptoms. 
She denies any other associated symptoms such difficulty with 
her
language or speech, no visual deficits. 
She has no known hx of stroke. She is not on ASA. She is very
independent and can take care of all her ADL's.    

Of note, pt has iodine contrast allergy so cant get CTA.
 
ROS: 10 point ROS reviewed as in HPI

 
Past Medical History:
multiplemyeloma
hypothyroidism 
shingles                                                   

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION Physical Exam:
Vitals: T:  P:  R: 16  BP:  SaO2:
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, place not year. Able
to relate history without difficulty. Attentive, able to name 
___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. The pt had good knowledge of
current events. There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to LT
VII: mild right lower facial asymmetry
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___ 
L  5    ___   5  5    5   5    5  5     5     5   
R  4    5-  4+  5-  5  5    4-  5    4  4     4     4    

-DTRs:  
Hyporeflexic throughout       
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick throughout. 

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Deferred

DISCHARGE PHYSICAL EXAM: 

Neurologic:

-Mental Status: Alert, oriented to person, place not year. Able
to relate history without difficulty. Attentive, able to name 
___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. The pt had good knowledge of
current events. There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to LT
VII: mild right lower facial asymmetry
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___ 
L  5    ___   5  5    5   5    5  5     5     4+   
R  4    ___   5  5    4   5    5  5     5     4+    

-DTRs:  
Hyporeflexic throughout       
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick throughout. 

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Able to ambulate independently but she has an antalgic 
gait. 
 
Pertinent Results:
Laboratory Results/ Diagnostics: 

___ 07:30AM BLOOD WBC-10.9* RBC-4.03 Hgb-12.6 Hct-37.4 
MCV-93 MCH-31.3 MCHC-33.7 RDW-15.4 RDWSD-51.9* Plt ___
___ 11:03AM BLOOD WBC-11.7* RBC-3.72* Hgb-11.8 Hct-35.5 
MCV-95 MCH-31.7 MCHC-33.2 RDW-15.8* RDWSD-54.8* Plt ___
___ 11:03AM BLOOD Neuts-83.4* Lymphs-9.7* Monos-5.9 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-9.72* AbsLymp-1.13* 
AbsMono-0.69 AbsEos-0.01* AbsBaso-0.05
___ 07:30AM BLOOD ___ PTT-25.5 ___
___ 11:03AM BLOOD Glucose-102* UreaN-21* Creat-0.9 Na-144 
K-4.0 Cl-106 HCO3-24 AnGap-14
___ 07:30AM BLOOD Glucose-93 UreaN-13 Creat-0.7 Na-139 
K-3.4* Cl-99 HCO3-27 AnGap-13
___ 07:30AM BLOOD ALT-9 AST-15
___ 08:26AM BLOOD D-Dimer-994*
___ 07:30AM BLOOD %HbA1c-5.8 eAG-120
___ 07:30AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.0 Cholest-216*
___ 07:30AM BLOOD Triglyc-138 HDL-54 CHOL/HD-4.0 
LDLcalc-134*

IMAGING: 
CT head at OSH: No acute process
MRI Brain: **** 
 
Brief Hospital Course:
Brief Hospital Course: 

Ms. ___ is an ___ R-handed woman with a pmhx of 
multiple myeloma on daratumumab, hypothyroidism, and shingles 
(involving T4 on the right side in the back) on valacyclovir who 
presented with RLE ore than RUE weakness concerning for stroke. 
She was not a tPA candidate as she outside of time window.She 
was not a thrombectomy candidate given rapidly improving 
symptoms, low NIHSS and no large vessel occlusion. She underwent 
a head CT which did not show any acute process. CTA could not be 
performed due to iodine contrast allergy.  All together her 
symptoms were concerning for an ischemic event, possibly 
involving the ACA territory or a small vessel lacune. She was 
admitted to the stroke service for further evaluation. 

#R sided weakness: 
-The patient was admitted to the stroke service for work up of 
her R sided weakness. She had rapidly improving symptoms and by 
the time she was evaluated the next morning by the stroke team 
she only had mild R IP weakness but otherwise was full strength. 
Etiology of her stroke was thought to be due to small 
vessel/lacunar etiology vs an ACA territory stroke given the leg 
> arm symptoms. MRI was done and showed a small  Left ACA 
territory infarct. She was started on aspirin 81mg daily for 
stroke prevention. Her stroke RF were: LDL 121, A1C 6.0, TSH 
0.17 and she had elevated D-Dimer of 994 suggesting that she is 
hypercoagulable and this might have been the cause for her 
stroke, since ACA strokes are more likely caused by sludging in 
the small and long artery of the ACA. She was started on ASA81mg 
po QD (she was not previously on Aspirin) and also started on 
atorvastatin 40mg po QD for her hypercholesterolemia. 
Depending on how the treatment goes for her multiple myeloma on 
Daratumumab, one might have to reconsider the optimal treatment 
for secondary stroke prophylaxis. If indeed she continues to be 
hypercoagulable, then she might benefit from either Lovenox or 
Coumadin for secondary stroke prophylaxis.

#Shingles: 
-Patient taking Valtrex ___ once daily for shingles. She still 
had a residual rash on her back around the T3-T4 area. Patient 
was not symptomatic from this 

#Multiple Myeloma: 
Patient receives her oncologic care at ___ in ___. 

#R Leg pain: 
Likely multifactorial from her fall behind the toilet when 
stroke occurred as well as arthritis, and joint pain from her 
multiple myeloma. Patient given Tylenol while she was admitted. 

#Hypertension: 
Patient's bp was elevated to 180s systolic when she first 
arrived, then it decreased down to the 160s systolic while she 
was in the hospital. An antihypertensive was not started while 
the patient was in the hospital given that she had an acute 
infarct, however would like for her PCP to monitor her BP and 
start medication. 

Transitional Issues: 
1. Patient should follow-up with her PCP ___ ___ weeks after 
discharge. Please have PCP refer you to a neurologist in ___ 
whom you can see in ___ weeks 
2. Please take aspirin 81mg daily 
3. Please take atorvastatin 40mg daily
4. Please have PCP check your blood pressure regularly and start 
a blood pressure medicine if needed 
5. Please continue to see your oncologist for multiple myeloma 
management 

 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack  
 1. Dysphagia screening before any PO intake? X() Yes, confirmed 
done - () Not confirmed  () No  
 2. DVT Prophylaxis administered? (X) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (X) Yes - () No  
 4. LDL documented? (X) Yes (LDL =121 ) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL if LDL >70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL]  
 6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
() Yes - (X) No  
 9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ValACYclovir 500 mg PO Q24H 
2. Levothyroxine Sodium 88 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth DAILY Disp #*90 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
3.  Levothyroxine Sodium 88 mcg PO DAILY  
4.  ValACYclovir 500 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

 You were hospitalized due to symptoms of R sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
1. Multiple Myeloma 
2. Age 
___. High Cholesterol 
 
 We are changing your medications as follows:  
 1. Please start taking 81mg Aspirin DAILY (baby aspirin) 
 2. We also started you on a cholesterol medication called 
Atorvastatin 40mg daily 
  
 Please take your other medications as prescribed.  
 Please follow up withyour primary care physician . Please also 
have your doctors in ___ set you up with a neurologist to 
monitor your stroke. 
  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___